Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is ___ with history of CAD s/p CABG in ___ (___->LAD, 
SVG->diag->OM, SVG->PDA) and s/p NSTEMI in ___ with DES x3 
to RCA and POBA to D2 as well as hypertension and DM who 
presents with chest pain. Since her last presentation patient 
reports intermittent episodes of throat pain that she states 
usually occurs after eating something she "has no business 
eating." It is usually resolved with antacids. On day of 
presentation she reported repeated episodes throughout the day 
lasting minutes. She states that as soon as the Tums would wear 
off, the pain would recur. Additionally, the quality of the pain 
on day of admission was reminiscent of her prior cardiac event 
which prompted her to come to the ED for evaluation.  

She states that the pain was associated with SOB but did not 
change with exertion. There was no pleuritic nature to it and it 
was reproducible. She states that she has been battling a URI 
illness all week and has a cough because of it. Denied fevers or 
chills. No orthopnea, PND ___ edema.  
In the ED, initial vitals were 71 ___ 98%RA Labs and 
imaging significant for Hct 35 and Cr 1.5 - both near baseline. 
Patient was chest pain free while in ED and thus was not 
anticoaagulated however did receive aspirin 325mg. Patient was 
then admitted for work-up of chest pain and rule out MI. Vitals 
on transfer were HR 54 BP160/91 RR12 99%ra.  

On arrival to the floor, patient states that she is very anxious 
about being in the hospital again however denies CP currently.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes, +Dyslipidemia, +Hypertension 
 
2. CARDIAC HISTORY:  
CABG in ___: CAD s/p CABG ___ (___->LAD, SVG->diag->OM, 
SVG->PDA) 
Cath: ___  
-- LIMA to LAD patent.
-- SVG to the diagonal and OM occluded.
-- SVG to the PDA was occluded.  
-- Old 80% LAD lesion and 100% D1 occlusion. 
-- circumflex moderately diseased, 
-- RCA had serial 80% lesions --> 3 stents placed in the RCA.  
PCI: RCA PCI in ___
.
3. OTHER PAST MEDICAL HISTORY: 
-prior CVA without residual deficit  
-glaucoma  
-arthritis  
-history of heart block and dual chamber pacemaker placement in 
___  
- diastolic CHF
- PVD
- Vertigo
- HRN
- Hypothyroidism
- Depression/Anxiety

 
Social History:
___
Family History:
Her son, ___, had a history of diabetes, hypertension, 
hyperlipidemia, status post anterior ST elevation MI with a 
drug-eluting stent to the proximal LAD in ___. He had an 
ICD implanted in ___ for a nonsustained VT in the 
setting of low EF (20%).  He presented on ___ after 
syncope and ICD shocks for rapid monomorphic VT with cycle 
length 210, right bundle-branch block configuration, right 
superior axis.  There may have been 12 occurrences.  During VT 
ablation in the EP lab, he had a non-clinical VT for which 
shocked.  He had a PEA arrest from which he recovered but never 
regained normal function.  He died ___ following a 
prolonged neurological vegetative state. 

Family history also significant for coronary artery disease. 
 
Physical Exam:
Admission Physical Exam:

VS- 98.2 187/100 65 18 100%RA Wt 135.4lbs  
Gen: Pleasant, anxious, NAD  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple, No LAD. JVP  
CV: RRR. normal S1S2. no mrg  
LUNGS: CTAB. No wheezes, rales, or rhonchi.  
ABD: Obese, NABS. Soft, NT, ND. No HSM.  
EXT: WWP, NO CCE. Full distal pulses bilaterally.  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Non-focal  

Discharge Physical Exam:

t = 98.1-98.2, bp = 124/79 - 128/73, pulse = 60, rr = 18, O2 
sat= 96-100 on RA
GENERAL: Elderly AA female, lying in bed in no apparent 
distress.  
HEENT: NCAT. Sclera anicteric. MMM.  
NECK: Supple. Nondistended JVD. 
CARDIAC: RRR. No audbile murmurs, rubs, or gallops. No S3 or S4, 
no thrills or lifts.   
LUNGS: Unlabored respirations, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, nondistended. Nontender to palpation. 
EXTREMITIES: Warm extremities. No edema present.  

 
Pertinent Results:
Labs on Admission:

___ 09:50PM BLOOD WBC-8.3 RBC-3.96* Hgb-12.2 Hct-35.6* 
MCV-90 MCH-30.8 MCHC-34.2 RDW-14.9 Plt ___
___ 09:50PM BLOOD Neuts-66.7 ___ Monos-5.2 Eos-0.9 
Baso-0.4
___ 09:50PM BLOOD ___ PTT-29.8 ___
___ 09:50PM BLOOD Glucose-225* UreaN-47* Creat-1.5* Na-138 
K-4.7 Cl-101 HCO3-28 AnGap-14
___ 09:50PM BLOOD cTropnT-<0.01
___ 03:14AM BLOOD CK-MB-3 cTropnT-0.02*
___ 09:02AM BLOOD CK-MB-3 cTropnT-0.02*
___ 09:02AM BLOOD Calcium-10.0 Phos-2.9 Mg-2.5

Labs on Discharge: 

___ 07:15AM BLOOD ___-7.7 RBC-4.12* Hgb-12.1 Hct-36.5 
MCV-89 MCH-29.3 MCHC-33.1 RDW-14.7 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-138* UreaN-50* Creat-1.5* Na-137 
K-5.0 Cl-99 HCO3-30 AnGap-13
___ 07:15AM BLOOD Calcium-9.2 Phos-3.9 Mg-2.5

Admission EKG: Vpaced 67bpm

CXR (___): FINDINGS:  Frontal and lateral views of the 
chest were obtained.  The heart is normal size with stable 
cardiomediastinal contours.  The lungs are clear.  No focal 
consolidation, pleural effusion, or pneumothorax.  No pulmonary 
edema. Dual-lead left chest wall pacer, midline sternotomy 
wires, and CABG clips are similar to prior. 
  
IMPRESSION:  No acute cardiopulmonary process. 

Echocardiogram (___): 
Conclusions  
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is mild regional left ventricular systolic 
dysfunction with infero-lateral hypokinesis extending in to the 
apex. No masses or thrombi are seen in the left ventricle. There 
is no ventricular septal defect. Right ventricular chamber size 
and free wall motion are normal. The aortic root is mildly 
dilated at the sinus level. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Trivial mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 

Compared to prior study from ___, no change. 

 
 
Brief Hospital Course:
___ with history of CAD s/p CABG in ___ (___->LAD, 
SVG->diag->OM, SVG->PDA) and s/p NSTEMI in ___ with DES x3 
to RCA and POBA to D2 as well as hypertension and DM who 
presents with throat and chest pain. During this 
hospitalization, troponins were stable. Medical management of 
her CAD and anginal symptoms was optimized.
  
# CAD: Extensive CAD history with recent NSTEMI in ___ with 
DES to RCA. Symptoms on presentation (throat pain) are atypical 
for CAD, but prior NSTEMI had similar symptoms, making this 
concerning for an anginal equivalent. Troponins were <0.01, 
0.02, 0.02. Given her relatively stable troponins and her 
complicated cardiac anatomy, the decision was made to optimize 
medical management of CAD. She was continued on aspirin 325 mg 
and Plavix 75mg. She is also on Carvedilol 12.5mg BID, 
Lisinopril 20mg, and Imdur 90mg. Throughout this 
hospitalization, we attempted to better control the patient's 
hypertension on admission (180s/100s). 
 
# PUMP: TTE on date of discharge showed LVEF of 40-45%, largely 
unchanged from previous TTE in ___. Was euvolemic on exam.   

 
# RHYTHM: History of complete heart block s/p PPM. The patient 
was monitored on telemetry throughout the admission.  
 
# Hypertension: Blood pressure was elevated on admission to 
180s/100s. Patient had a good deal of anxiety on admission. She 
was unclear on which medications she had been taking most 
recently. By discharge, pressures had come down to 120s/80s. 
Hypertension medication regimen includes: Carvedilol 12.5mg BID, 
Felodipine 1.25 mg, Lisinopril 20mg. Discontinued outpatient 
atenolol 50mg (to simplify beta blocker regimen). Also increased 
Isosorbide Mononitrate 60mg to 90mg.
 
# Chronic Kidney Disease - Creatinine was elevated throughout 
admission, but close to baseline of 1.3-1.5. Renally toxic 
medications were avoided. 

# DM - Home medications were held during admission and the 
patient was on Insulin Sliding Scale. She will be discarghed on 
home meds.
  
Transitional Issues:

- Follow up with outpatient cardiologist (appointment still 
needs to be made). 
- Follow up with Primary Care Provider.
 
Medications on Admission:
The Preadmissions Medication list may be inaccurate and require 
further investigation.
1. Lisinopril 20 mg PO DAILY 
hold for sbp < 100 
2. Atenolol 50 mg PO DAILY 
hold for sbp < 100 and hr < 60 
3. Rosuvastatin Calcium 40 mg PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
hold for sbp < 100 
5. GlyBURIDE 10 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. MetFORMIN (Glucophage) 500 mg PO HS 
8. Torsemide 5 mg PO DAILY 
hold for sbp < 100   
9. Felodipine 1.25 mg PO DAILY 
hold for sbp < 100   
10. Carvedilol 25 mg PO BID 
hold for sbp < 100 and hr < 60 

 
Discharge Medications:
1. Clopidogrel 75 mg PO DAILY 
2. Felodipine 1.25 mg PO DAILY 
hold for sbp < 100   
3. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
hold for sbp < 100 
5. Rosuvastatin Calcium 40 mg PO DAILY 
6. Torsemide 5 mg PO DAILY 
hold for sbp < 100   
7. GlyBURIDE 10 mg PO DAILY 
8. MetFORMIN (Glucophage) 500 mg PO HS 
9. Aspirin 325 mg PO DAILY 
10. Carvedilol 12.5 mg PO BID 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease, Hypertension

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You came in with pain while swallowing which was 
similar to the pain you experienced when you had a previous 
heart attack. While in the hospital, we worked on optimizing 
your medication regimen and decreasing your high blood pressure. 
Now you are no longer experiencing chest pain.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___